US06235355B1
The above 5-propyl-2-(4-(3,5-difluorophenyl)cyclohexyl-1,3-dioxane 1.3 g (4.0 mmol) was dissolved in THF 10 ml, and cooled to −65° C. under a nitrogen atmosphere. To this solution, 1.68 M hexane solution 3.0 ml (5.0 mmol) of n-butyllithium was added dropwise keeping the liquid temperature below −55° C., and the mixture was stirred for one hour at the same temperature. Then, to the reactant, 0.5 M THF solution 10 ml (5.0 mmol) of zinc chloride was added dropwise keeping the liquid temperature below −50° C., and the mixture was heated to room temperature and stirred for 30 minutes. Tetrakistriphenylphosphin paradium 0.5 g and 3-fluoro-4-chlorobromobenzene 1.1 g (5.3 mmol) were added to the solution, and the mixture was refluxed with heating for 3 hours. Water 30 ml was added to the resulting reactant, and the product was extracted with toluene. The extract was washed with 3N-hydrochloric acid, a saturated bicarbonate aqueous solution and then a saturated sodium chloride aqueous solution, and dried over magnesium sulfate, and the solvent was distilled off. The residue was purified by silica gel column chromatography (eluent: toluene), and recrystallized twice from a mixed solvent of heptane/ethyl acetate=1/1 to obtain 5-propyl-2-(4-(4-(3-fluoro-4-chlorophenyl)-3,5-difluorophenyl) cyclohexyl)-1,3-dioxane 1.7 g (3.8 mmol). The yield was 95.0% from 5-propyl-2-(4-(3,5-difluorophenyl)ethyl)-1,3-dioxane.

reactant | 4-(3,5-difluorophenyl)cyclohexyl-1,3-dioxane | 4.0 mmol, 1.3 g | FC=1C=C(C=C(C1)F)C1CCC(CC1)C1OCCCO1 | C16H20F2O2
reactant | hexane | 5.0 mmol, 1.68 M, 3.0 ml | CCCCCC | C6H14
reactant | n-butyllithium | C(CCC)[Li]
reactant | 3-fluoro-4-chlorobromobenzene | 5.3 mmol, 1.1 g | FC=1C=C(C=CC1Cl)Br | C6H3BrClF
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
solvent | THF | 5.0 mmol, 0.5 M, 10 ml | C1CCOC1 | C4H8O
solvent | Water | 30 ml | O | H2O
product | 5-propyl-2-(4-(4-(3-fluoro-4-chlorophenyl)-3,5-difluorophenyl) cyclohexyl)-1,3-dioxane | 3.8 mmol, 1.7 g, yield was 95.0% | C(CC)C1COC(OC1)C1CCC(CC1)C1=CC(=C(C(=C1)F)C1=CC(=C(C=C1)Cl)F)F | C25H28ClF3O2
